US04244953
6-(4-Aminophenyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine
6-(4-Nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine is hydrogenated in the presence of palladium on carbond to give the product of the Example.

reactant | 6-(4-Nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=CC=2N(C1)C=NN2 | C12H8N4O2
catalyst | palladium | [Pd] | Pd
product | 6-(4-Aminophenyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine | NC1=CC=C(C=C1)C1CCC=2N(C1)C=NN2 | C12H14N4
